US05891882
Methyl 3-amino-5-(3-pyridyl)thieno[3,2-b]pyridine-2-carboxylate
A solution of the methyl 3-amino-5-chloro-thieno[3,2-b]pyridine-2-carboxylate prepared as described in Example 5A (0.252 g), diethyl 3-pyridyl-borane (0.155 g), Pd(dppf)Cl2 (0.082 g) and K2CO3 (420 mg) in degassed DMF (5 mL) was heated to 95° C. for 1.5 h, cooled, quenched in sat'd NH4Cl, the solid precipitate collected and chromatographed 9:1 hexane/EtOAc to give 0.24 g (81%) of the title compound: 1H NMR (300MHz, CDCl3) δ 3.95 (3H, s), 6.30 (2H, br s), 7.45 (1H, dd), 7.86 (1H, d), 8.19 (1H, d), 9:1 hexane/EtOAc to give 0.24 g (81%) of the title compound: 1H NMR (300MHz, CDCl3) δ 3.95 (1H, dd), 9.32 (1H, br d).

reactant | methyl 3-amino-5-chloro-thieno[3,2-b]pyridine-2-carboxylate | NC1=C(SC=2C1=NC(=CC2)Cl)C(=O)OC | C9H7ClN2O2S
reactant | diethyl 3-pyridyl-borane | 0.155 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | K2CO3 | 420 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.082 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 3-amino-5-(3-pyridyl)thieno[3,2-b]pyridine-2-carboxylate | 0.24 g, 81% | NC1=C(SC=2C1=NC(=CC2)C=2C=NC=CC2)C(=O)OC | C14H11N3O2S
